US04719210
1.0 g of methyltriphenylphosphoniumbromide+sodium amide (condition-ylide) in 8 ml of absolute tetrahydrofuran is stirred at room temperature under argon for 15 minutes. To it is added 500 mg of 5-benzyloxy-4-methoxymethyl-9-tosyl-beta-carboline-3-carbaldehyde and the reaction mixture is refluxed for 4 hours. After evaporation of the solvent, the residue is chromatographed over silica gel with cyclohexane/acetic acid=8+2 as eluant. 0.153 mg of 5-benzyloxy-4-methoxymethyl-9-tosyl-3-vinyl-beta-carboline with a melting point of 141°-143° C. is obtained.

reactant | methyltriphenylphosphoniumbromide sodium amide | 1.0 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH2-].[Na+]
reactant | 5-benzyloxy-4-methoxymethyl-9-tosyl-beta-carboline-3-carbaldehyde | 500 mg | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3N(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C=O)COC | C28H24N2O5S
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 5-benzyloxy-4-methoxymethyl-9-tosyl-3-vinyl-beta-carboline | 0.153 mg | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3N(C2=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)C=C)COC | C29H26N2O4S
